US05843952
N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-3-chlorophenyl]-2,4-dichlorobenzamide
A mixture of 0.50 g of 5-2-chloro-4-amino-benzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine, 0.28 g of N,N-diisopropylethylamine and 0.45 g of 2,4-dichlorobenzoyl chloride in 25 ml of methylene chloride is stirred at: room temperature for 18 hours. The reaction mixture is washed with water, saturated NaHCO3, dried (Na2SO4) and passed through a short pad of hydrous magnesium silicate. The filtrate is evaporated in vacuo to give the desired product as a solid residue, m.p., 150°-165° C.

reactant | 6,11-dihydro-5H-dibenz[b,e]azepine | C1=CC=CC=2NCC3=C(CC21)C=CC=C3 | C14H13N
reactant | N,N-diisopropylethylamine | 0.28 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2,4-dichlorobenzoyl chloride | 0.45 g | ClC1=C(C(=O)Cl)C=CC(=C1)Cl | C7H3Cl3O
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | N-[4-[(6,11-Dihydro-5H-dibenz[b,e]azepin-5-yl)carbonyl]-3-chlorophenyl]-2,4-dichlorobenzamide | C1=CC=CC=2N(CC3=C(CC21)C=CC=C3)C(=O)C3=C(C=C(C=C3)NC(C3=C(C=C(C=C3)Cl)Cl)=O)Cl | C28H19Cl3N2O2
